US04673746
To a suspension of 15.0 g of ethyl[7-chloro-3-(5-methyl-2-furyl)-1,2-benzisoxazol-6-yl]oxy acetate, Example 10, in 800 ml of ethyl alcohol there is added 10 ml of a 50% sodium hydroxide solution. The reaction mixture is refluxed with vigorous stirring for 1.5 hours and 100 ml of 5% hydrochloric acid is added thereto. The resulting solution is sequentially chilled and diluted with water as the product begins to crystallize. The product is collected by filtration and recrystallized from methyl alcohol to yield {[7-chloro-3-(5-methyl-2-furyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid, mp 217°-219° C.

reactant | ethyl[7-chloro-3-(5-methyl-2-furyl)-1,2-benzisoxazol-6-yl]oxy acetate | 15.0 g | C(C)(=O)OOC1=C(C2=C(C(=NO2)C=2OC(=CC2)C)C(=C1)CC)Cl | C16H14ClNO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | ethyl alcohol | 800 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | {[7-chloro-3-(5-methyl-2-furyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C=2OC(=CC2)C)OCC(=O)O | C14H10ClNO5
